US04689330
To a stirred solution of 11.85 parts of N-[1-[(2,3-dihydro-1,4-benzodioxin-2-yl)methyl]-4-piperidinylmethyl]-2-benzothiazolamine in 72 parts of N,N-dimethylformamide were added portionwise 1.5 parts of a sodium hydride dispersion 50%. Upon completion, stirring was continued for 30 minutes. A solution of 4.6 parts of iodomethane in 18 parts of N,N-dimethylformamide was added dropwise. The whole was stirred overnight at room temperature. The reaction mixture was poured into water and the product was extracted twice with 4-methyl-2-pentanone. The combined organic layers were dried, filtered and evaporated. The residue was separated by column chromatography over silica gel using a mixture of trichloromethane and methanol (97:3 by volume) as eluent. The first fraction was collected and the eluent was evaporated. The residue was crystallized from a mixture of acetonitrile and 1,1'-oxybisethane, yielding 1 part of N-[[1-[(2,3-dihydro-1,4-benzodioxin-2-yl)methyl]-4-piperidinyl]methyl]-N-methyl-2-benzothiazolamine; mp. 125.4° C. (compound 62).

reactant | N-[1-[(2,3-dihydro-1,4-benzodioxin-2-yl)methyl]-4-piperidinylmethyl]-2-benzothiazolamine | O1C(COC2=C1C=CC=C2)CN2CCC(CC2)CNC=2SC1=C(N2)C=CC=C1 | C22H25N3O2S
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
reactant | sodium hydride | [H-].[Na+]
reactant | iodomethane | IC | CH3I
solvent | water | O | H2O
product | N-[[1-[(2,3-dihydro-1,4-benzodioxin-2-yl)methyl]-4-piperidinyl]methyl]-N-methyl-2-benzothiazolamine | O1C(COC2=C1C=CC=C2)CN2CCC(CC2)CN(C=2SC1=C(N2)C=CC=C1)C | C23H27N3O2S
